US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-N,N,4-trimethylthiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with dimethylamine hydrochloride, the title compound was obtained as a colorless solid in 34% yield: mp 162-164° C.; 1H NMR (300 MHz, CDCl3) δ 7.29-7.25 (m, 2H), 7.06-7.01 (m, 2H), 4.45 (s, 2H), 4.06 (t, J=9.0 Hz, 2H), 3.45 (t, J=9.0 Hz, 2H), 3.07 (s, 6H), 2.34 (s, 3H); MS (ES+) m/z 363.3 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | dimethylamine hydrochloride | Cl.CNC
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-N,N,4-trimethylthiazole-5-carboxamide | 34% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)N(C)C)=O)C=C1 | C17H19FN4O2S
